2190-10-31 07:02:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2190-10-31**] 01:56 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-10-31**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 75 (75 - 96) bpm
   BP: 103/49(62) {98/49(62) - 122/63(79)} mmHg
   RR: 16 (16 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             2,553 mL
   PO:
             TF:
   IVF:
   553 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    580 mL
   Urine:
   380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,973 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///29/
   Physical Examination
   PHYSICAL EXAM
   General: NAD
   Neck: Supple, no JVD, no LAD
   Cardiac: RRR, systolic murmur in RUSB.
   Resp: Rhonchi and mild wheezing throughout, mild crackles at bases
   GI: Soft, NT/ND, +BS, no organomegaly, guiac trace +
   Extremities: 2+ DP pulses and 2+ radial pulses.
   Neurologic: A&O x3. DTR 3+ in R patella, 2+ in L patella. UE reflexes
   +2 bilaterally. Sensation grossly intact. Pupils sluggishly reactive.
   Good finger to nose with left hand and difficulty on right secondary to
   Motor: LE strength 3+/5 in quads and dorsiflexion.  4+/5 planterflexion
     Delt Tri  [**Hospital1 **]    Grip
   R  4    4-    4-   5
   L  4    5-    5-   4+
   Labs / Radiology
   528 K/uL
   8.3 g/dL
   88 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.5 mEq/L
   29 mg/dL
   106 mEq/L
   142 mEq/L
   26.1 %
   25.4 K/uL
        [image002.jpg]
                            [**2190-10-30**]  11:40 PM
   WBC
   25.4
   Hct
   26.1
   Plt
   528
   Cr
   0.7
   Glucose
   88
   Other labs: Differential-Neuts:91.1 %, Lymph:7.0 %, Mono:1.8 %, Eos:0.0
   %, Lactic Acid:2.4 mmol/L
   Assessment and Plan
   ASSESSMENT AND PLAN:  77 yo f with h/o lumbar compression fracture, c.
   albican osteo, stage IV lumbar decub, aspiration PNA, hypothyroidism,
   anemia, unresponsiveness, and interstitial pulm fibrosis who presents
   s/p 2 episodes of unresponsiveness in the setting of infection who p/w
   unresponsiveness in the setting of new PNA, elevated lactate, fever,
   and elevated WBC.
   .
   # Unresponsiveness: A & Ox3 with exception of actual date (knew month
   and yr). On [**10-21**] and [**10-23**] had acute change in mental status with
   difficulty to arouse. At that time pt had PNA, CT head neg, CTA head
   was normal, EEG was abnormal and neurology thought delirium rather than
   seizure.  However, recent outpt  neuro notes says seizure likely cause
   of episodes of speech arrest.  Today neuro exam does not seem
   significantly changed from prior.  UA was negative. TSH 14 at last
   hospitalization. Finger stick >400 at the time of the incident.
   -etiology most likely in setting of new PNA, elevated WBC, elevated
   lactate
   -consider repeat CT head although unlikely to be + given previous
   similar episode and normal CT head. would not send at this time given
   tenuous respiratory status.
   -MRI when stable from a respiratory status to evaluate for potential
   structural contributions
   -neuro consult in AM
   -monitor on telemetry
   -serial neuro exams
   -follow finger sticks
   -hold all home pain medications for now
   .
   #. PNA: Could be secondary to aspiration.  Was on vancomycin/cefepime
   for PNA with plan for last day of tx [**2190-11-4**].
   -continue cefepime/vanco/flagyl as given in the ED and add cipro for
   double coverage of pseudomonas given recent hospitalization
   -tamiflu for H1N1 coverage
   -nasal swab for flu
   -speech and swallow in am
   -sputum cx
   .
   # [**Female First Name (un) **] Albicans Vertebral Osteomyelitis: CT guided biopsy at last
   admission revealed C. Albicans in back osteomyelitis.  Neurosurg
   thought no intervention needed at last admission and ID felt pt would
   need months of abx.
   -TLSO brace at all times if >30 degrees
   -log roll precautions
   -neurosurgery follow-up
   -continue fluconazole
   .
   #Shoulder dislocation: Patient with failed closed reduction x2.
   -may need open surgical reduction in the future
   .
   # Enterococcus urinary tract infection: currently on treatment with
   vancomycin for infection during last admission.
   .
   # Chronic Normocytic Anemia: HCT 26.1, recent baseline 30 to 31.
   -guiac stool
   -follow HCT, transfuse if next HCT<22
   .
   # Hypertension:  Patient transiently hypotensive in the ED.  Responded
   well to fluids and making good UOP.
   -fluid boluses prn
   -monitor UOP
   -no need for central access at this time
   .
   # Compression fracture/osteoporosis:
   -Calcium 500 TID
   -50,000u ergocalciferol on Saturdays
   -continue Alendronate
   -calcitonin for pain control
   .
   # Idiopathic pulmonary fibrosis:
   -continue home Prednisone 5 mg daily
   .
   # Hypothyroid:
   -Continued Levothyroxine 50mcg PO daily, confirm dose (? 50 or 75 po
   daily)
   .
   # Depression/Anxiety:
   -continue home depression medications
   .
   # Skin Ulcers: stage 2 on sacrum, stage 2 on left leg, and unclear
   stage ?IV on lumbar spine
   -wound care consult
   .
   # Hypoalbuminemia:
   -nutrition c/s
   -start ensure TID
   .
   #. FEN:
   -IVF as needed to maintain BP
   -replete lytes prn
   -pain via home regimen
   .
   #. CODE STATUS:
   -Full code confirmed with patient and family aware
   .
   # Access: PICC and peripheral
   .
   #. EMERGENCY CONTACT: [**Name (NI) **] [**Name (NI) 294**] is HCP
   .
   #. DISPOSITION: ICU For now
   ICU Care
   Nutrition: NPO for now except meds
   Glycemic Control:
   Lines:
   PICC Line - [**2190-10-31**] 01:56 AM
   20 Gauge - [**2190-10-31**] 01:57 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: withh family, son [**Name (NI) **] is HCP
   [**Name (NI) 156**] status: Full code confirmed was a change from prior admission
   Disposition:  ICU for now

2190-11-01 07:20:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -pt was c/o to floor and transport called for MRI. pt was anxious about
   MRI, and was being rolled, in severe back pain.. and dropped sats to
   87% on 3L NC. Patient did not feel comfortable going for MRI and since
   she appeared unstable and MRI was not urgent at the time, we decided to
   hold off on it for now and keep patient overnight for observation/
   comfort/pain control in setting of o2 sats of 87-91% and call her out
   in the AM
   -Found patient to have altered mental status while pre-rounding this
   a.m., responding to sternal rub by briefly opening eyes, then falling
   back asleep. Very difficult to arouse. Vital signs normal. Blood
   glucose 102. ABG 7.42/52/65. Gave Narcan 0.1 mg with immediate
   response. Patient awake, alert. See below for full exam.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-1**] 12:00 AM
   Cefipime - [**2190-11-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-11-1**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-1**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 77 (67 - 104) bpm
   BP: 118/61(74) {113/48(68) - 157/73(88)} mmHg
   RR: 12 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,121 mL
                                                                    596 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,421 mL
                                                                    596 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                    500 mL
   Urine:
                                                                  1,610 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,311 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///30/
   Physical Examination
   General: Patient initially non-responsive. After Narcan, patient alert,
   mildly agitated.
   Cardiac: RRR, systolic murmur in RUSB with radiation throughout
   precordium.
   Resp: Rales at right base.
   GI: Soft, NT/ND, +BS.
   Extremities: Warm and well-perfused. No edema.
   Neurologic: Alert, oriented to year and month but not date. Nor
   oriented to place. Naming and repetition intact. Left pupil reacts from
   3 mm to 2 mm. Right pupil reacts 2.5 mm to 2 mm. Exam limited by
   patient cooperation. Increased tone in all 4 extremities. Could not
   test reflexes [**1-18**] increased tone.
   Labs / Radiology
   524 K/uL
   7.8 g/dL
   162 mg/dL
   0.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   25.1 %
   16.8 K/uL
        [image002.jpg]
                            [**2190-10-30**]  11:40 PM
                            [**2190-10-31**]  09:26 AM
                            [**2190-11-1**]  04:07 AM
   WBC
   25.4
   25.0
   16.8
   Hct
   26.1
   25.2
   25.1
   Plt
   528
   489
   524
   Cr
   0.7
   0.5
   0.5
   Glucose
   88
   97
   162
   Other labs: Differential-Neuts:85.7 %, Lymph:9.8 %, Mono:3.5 %, Eos:1.0
   %, Lactic Acid:2.4 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   77 yo f with h/o lumbar compression fracture, c. albican osteo, stage
   IV lumbar decub, aspiration PNA, hypothyroidism, anemia,
   unresponsiveness, and interstitial pulm fibrosis who presents s/p 2
   episodes of unresponsiveness in the setting of infection who p/w
   unresponsiveness in the setting of new PNA, elevated lactate, fever,
   and elevated WBC.
   .
   # Unresponsiveness: Observed episode of unresponsiveness this a.m.
   Patient has had similar episodes in past, but today
s episode is much
   longer-lasting. Has undergone neurologic work-up in past with concern
   for seizure. Plan was for head MRI today to evaluate for structural
   lesion, but currently patient is not stable enough to leave ICU.
   -plan for MRI when patient is stable
   -Narcan drip
   -d/c home methadone
   -d/c home citalopram (altered mental status, increased tone associated
   with serotonin syndrome)
   -pain consult
   -f/u neuro recs
   -monitor on telemetry
   -serial neuro exams
   -d/c home methadone
   -NPO given mental status
   -d/c home citalopram for now
   .
   #. PNA: Could be secondary to aspiration.  Was on vancomycin/cefepime
   for PNA with plan for last day of tx [**2190-11-4**].
   -continue cefepime/vanco/flagyl as given in the ED and add cipro for
   double coverage of pseudomonas given recent hospitalization
   -tamiflu for H1N1 coverage
   -nasal swab for flu
   -speech and swallow consult; dysphagia diet for now
   -sputum cx
   .
   # [**Female First Name (un) **] Albicans Vertebral Osteomyelitis: CT guided biopsy at last
   admission revealed C. Albicans in back osteomyelitis.  Neurosurg
   thought no intervention needed at last admission and ID felt pt would
   need months of abx.
   -TLSO brace at all times if >30 degrees
   -log roll precautions
   -neurosurgery follow-up
   -continue fluconazole
   .
   #Shoulder dislocation: Patient with failed closed reduction x2.
   -may need open surgical reduction in the future, but this can be
   addressed after patient leaves ICU
   .
   # Enterococcus urinary tract infection: currently on treatment with
   vancomycin for infection during last admission.
   .
   # Chronic Normocytic Anemia: HCT 26.1, recent baseline 30 to 31.
   -continue to trend Hct
   .
   # Compression fracture/osteoporosis:
   -Calcium 500 TID
   -50,000u ergocalciferol on Saturdays
   -continue Alendronate
   -calcitonin for pain control
   .
   # Idiopathic pulmonary fibrosis:
   -continue home Prednisone 5 mg daily
   .
   # Hypothyroid:
   -Continue Levothyroxine 50mcg PO daily, confirm dose (? 50 or 75 po
   daily)
   .
   # Depression/Anxiety:
   -continue citalopram
   .
   # Skin Ulcers: stage 2 on sacrum, stage 2 on left leg, and unclear
   stage ?IV on lumbar spine
   -wound care consult
   ICU Care
   Nutrition: Dysphagia diet until cleared by speech and swallow.
   Glycemic Control:
   Lines:
   PICC Line - [**2190-10-31**] 01:56 AM
   20 Gauge - [**2190-10-31**] 01:57 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: withh family, son [**Name (NI) **] is HCP
   [**Name (NI) 156**] status: Full code confirmed with patient and family aware.
   Disposition:  ICU for now

2190-11-01 12:51:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   HPI: 77F (h/o altered mental status / non-responsiveness, lumbar
   compression fracture, c. albicans osteomyelitis, stage IV lumbar decub,
   aspiration PNA, hypothyroidism, anemia, IPF) who presented with
   unresponsiveness in the setting of fever, elevated WBC and lactate
   likely [**1-18**] PNA. On [**10-21**] and [**10-23**] had acute change in mental status with
   difficulty to arouse. At that time pt had PNA, CT head neg, CTA head
   was normal, EEG was abnormal and neurology thought delirium rather than
   seizure.  However, recent outpt  neuro notes says seizure likely cause
   of episodes of speech arrest.
   24 Hour Events: Brain MRI deferred [**1-18**] pt
s pain and mild desat to 87%
   on 3L NC. Pt restarted on methadone. This AM, pt difficult to arouse
   except to sternal rub; pt awoke after narcan 0.04x1. Narcan repeated
   2-3 hours later after recurrent difficultly to arouse and pt awoke
   again. Methadone d/c
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-1**] 12:00 AM
   Cefipime - [**2190-11-1**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-11-1**] 06:00 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-1**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 75 (67 - 99) bpm
   BP: 120/52(69) {95/23(52) - 157/73(88)} mmHg
   RR: 12 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  4,121 mL
                                                                    701 mL
   PO:
                                                                    700 mL
             TF:
   IVF:
                                                                  1,421 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                  1,810 mL
                                                                  1,020 mL
   Urine:
                                                                  1,610 mL
                                                                  1,020 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,311 mL
                                                                   -319 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.42/52/65/30/7
   Physical Examination
   Gen: A/Ox2, NAD. Responds to voice, answers questions and follows
   commands.
   HEENT: PERRL, EOMI, oropharynx clear
   Cor: RRR no m/r/g
   Lung: coarse BS bilateral no w/c/r
   Abd: soft, NT/ND +BS
   Ext: no c/c/e
   Peripheral Vascular: (Right radial pulse: intact), (Left radial pulse:
   intact), (Right DP pulse: intact), (Left DP pulse: intact)
   Skin:  Intact, will re-assess back later with nursing team
   Neurologic: A/Ox1-2 (self, [**2090-10-16**]), responds to voice, answers
   questions and follows commands. No focal cranial or motor deficits.
   Repeats
no ifs, ands, or buts
 correctly.
   Labs / Radiology
   7.8 g/dL
   524 K/uL
   102
   0.5 mg/dL
   30 mEq/L
   4.4 mEq/L
   17 mg/dL
   102 mEq/L
   135 mEq/L
   25.1 %
   16.8 K/uL
        [image002.jpg]
                            [**2190-10-30**]  11:40 PM
                            [**2190-10-31**]  09:26 AM
                            [**2190-11-1**]  04:07 AM
                            [**2190-11-1**]  08:00 AM
                            [**2190-11-1**]  08:38 AM
   WBC
   25.4
   25.0
   16.8
   Hct
   26.1
   25.2
   25.1
   Plt
   528
   489
   524
   Cr
   0.7
   0.5
   0.5
   TCO2
   35
   Glucose
   88
   97
   162
   102
   Other labs: Differential-Neuts:85.7 %, Lymph:9.8 %, Mono:3.5 %, Eos:1.0
   %, Lactic Acid:2.4 mmol/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   77F (h/o lumbar compression fracture, c. albican osteomyelitis, stage
   IV lumbar decub, IPF) presents with altered mental status in setting of
   fever, elevated WBC/lactate [**1-18**] likely PNA.
   # AMS / decreased responsiveness: After methadone re-started yesterday
   PM, pt was minimally responsiveness this AM; pt awoke with low-dose
   narcan. Current episodes of unresponsiveness likely due to narcotics.
   - defer Brain MRI for now given patient
s status. Re-consider in
   future.
   [] neuro recs
   [] serial neuro exams
   [] d/c home methadone
   [] narcan prn as methadone leaves her system
   [] recheck TSH
   [] cont keppra per neuro
   [] chronic pain c/s to help manage pain in setting of
   over-narcotization on methadone
   # PNA: possible aspiration. Had been on vancomycin/cefepime for PNA
   with plan for last day of tx [**2190-11-4**]. Influenza swab neg.
   [] d/c tamiflu (influenza swab neg)
   [] cont vanc / cefepime / cipro
   [] vanc level
   [] speech and swallow consult
   [] sputum g/s + cx
   # [**Female First Name (un) **] Albicans Vertebral Osteomyelitis: CT guided biopsy at last
   admission revealed C. Albicans in back osteomyelitis.  Neurosurg
   thought no intervention needed at last admission and ID rec
d months of
   abx.
   -TLSO brace at all times if >30 degrees
   -log roll precautions
   -neurosurgery recs
   -continue fluconazole
   #Shoulder dislocation: Patient with failed closed reduction x2 under
   GA. Pt may require open reduction in future, which can be discussed
   after patient leaves [**Hospital Unit Name 4**].
   #Enterococcus urinary tract infection: currently on treatment with
   vancomycin for infection during last admission.
   # Chronic Normocytic Anemia: HCT 26.1, recent baseline 30 to 31.
   -continue to trend Hct
   # Compression fracture/osteoporosis: cont Calcium 500 TID, 50,000u
   ergocalciferol on Saturdays, Alendronate. Calcitonin for pain control
   # Idiopathic pulmonary fibrosis:
   -continue home Prednisone 5 mg daily
   # Hypothyroid: Continue Levothyroxine 50mcg PO daily. Recheck TSH
   # Depression/Anxiety:  continue citalopram
   # Skin Ulcers: stage 2 on sacrum, stage 2 on left leg, and unclear
   stage ?IV on lumbar spine
   -wound care consult
   ICU Care
   Nutrition: NPO while altered mental status. Can likely restart PO diet
   after mental status improves
   Glycemic Control:  monitor
   Lines:
   PICC Line - [**2190-10-31**] 01:56 AM
   20 Gauge - [**2190-10-31**] 01:57 AM
   Prophylaxis:
   DVT: heparin ppx
   Stress ulcer: n/a
   VAP: n/a
   Comments:
   Communication:  With patient and HCP
   [**Name (NI) 156**] status: Full code
   Disposition : ICU
   Total time spent: 30mins

2190-11-02 07:22:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -After several episodes of unresponsiveness that responded to Narcan
   boluses, the patient was started on low dose Narcan drip.
   -The pt. was seen by Pain service and Neurology, Neurontin were d/c'd.
   Methadone was d/c'd.  Keppra was d/c'd as findings were not c/w seizure
   activity per Neuro.
   -Ordered EEG, MRI to be performed at a later point when pt. tolerates.
   -Per neuro, no utility in Head CT.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-2**] 12:00 AM
   Fluconazole - [**2190-11-2**] 01:30 AM
   Ciprofloxacin - [**2190-11-2**] 03:00 AM
   Cefipime - [**2190-11-2**] 06:15 AM
   Infusions:
   Naloxone (Narcan) - 0.3 mcg/Kg/min
   Other ICU medications:
   Naloxone (Narcan) - [**2190-11-1**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-2**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.7
C (96.2
   HR: 76 (74 - 117) bpm
   BP: 165/65(87) {98/23(52) - 168/91(102)} mmHg
   RR: 25 (12 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,292 mL
                                                                    979 mL
   PO:
             TF:
   IVF:
                                                                  1,292 mL
                                                                    979 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,320 mL
   Urine:
                                                                  1,970 mL
                                                                  1,320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -678 mL
                                                                   -341 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42/52/65/31/7
   Physical Examination
   General: Alert, converses appropriately.
   Cardiac: RRR, systolic murmur in RUSB with radiation throughout
   precordium.
   Resp: Rales at right base, improved from yesterday.
   GI: Soft, NT/ND, +BS.
   Extremities: Warm and well-perfused. No edema.
   Neurologic: Alert, oriented to year, month, date, and hospital but not
   to which hospital. Left pupil reacts from 6 mm to 3 mm. Right pupil
   reacts 4 mm to 3 mm. Moving all extremities.
   Labs / Radiology
   544 K/uL
   8.7 g/dL
   95 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   97 mEq/L
   135 mEq/L
   27.3 %
   13.2 K/uL
         [image002.jpg]
                            [**2190-10-30**]  11:40 PM
                            [**2190-10-31**]  09:26 AM
                            [**2190-11-1**]  04:07 AM
                            [**2190-11-1**]  08:00 AM
                            [**2190-11-1**]  08:38 AM
                            [**2190-11-1**]  12:00 PM
                            [**2190-11-2**]  03:48 AM
   WBC
   25.4
   25.0
   16.8
   13.2
   Hct
   26.1
   25.2
   25.1
   27.3
   Plt
   528
   489
   524
   544
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   35
   Glucose
   88
   97
   162
   102
   81
   95
   Other labs: Differential-Neuts:85.7 %, Lymph:9.8 %, Mono:3.5 %, Eos:1.0
   %, Lactic Acid:2.4 mmol/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   77 yo f with h/o lumbar compression fracture, c. albican osteo, stage
   IV lumbar decub, aspiration PNA, hypothyroidism, anemia,
   unresponsiveness, and interstitial pulm fibrosis who presents s/p 2
   episodes of unresponsiveness in the setting of infection who p/w
   unresponsiveness in the setting of new PNA, elevated lactate, fever,
   and elevated WBC.
   .
   # Unresponsiveness: Likely toxic/metabolic [**1-18**] to methadone and
   gabapentin. Per patient
s family, mental status changes were first
   observed after the patient started fluconazole. It seems likely that
   there was a pharmacokinetic interaction between fluconazole and
   methadone, with fluconazole increasing the patient
s methadone levels.
   Now alert and oriented, off Narcan drip. Low suspicion for seizures.
   -f/u pain and neuro recs
   -very low-dose Dilaudid PRN pain
   -give Neurontin at lower dose per pain recs
   -monitor on telemetry
   -serial neuro exams
   -mental status improved to point where patient no longer needs to be
   NPO
   -restart citalopram, as patient
s mental status changes appear to be
   more opioid-related than serotonin syndrome-related. Will reevaluate if
   patient develops recurrent altered mental status
   -f/u EEG although low suspicion for seizure
   .
   #. PNA: Could be secondary to aspiration.  Was on vancomycin/cefepime
   for PNA with plan for last day of tx [**2190-11-4**].  Influenza negative.
   -continue cefepime/vanco/cipro until [**2190-11-4**]
   -f/u sputum cx
   .
   # [**Female First Name (un) **] Albicans Vertebral Osteomyelitis: CT guided biopsy at last
   admission revealed C. Albicans in back osteomyelitis.  Neurosurg
   thought no intervention needed at last admission and ID felt pt would
   need months of abx.
   -TLSO brace at all times if >30 degrees
   -log roll precautions
   -neurosurgery follow-up
   -continue fluconazole
   .
   #Shoulder dislocation: Patient with failed closed reduction x2.
   -may require operative reduction in future; will wait until patient is
   more stable for this
   .
   # Enterococcus urinary tract infection: currently on treatment with
   vancomycin for infection during last admission.
   -continue vancomycin until [**2190-11-4**]
   .
   # Chronic Normocytic Anemia: HCT 26.1, recent baseline 30 to 31.
   -Hct stable during this admission.
   -Continue to trend Hct
   .
   # Compression fracture/osteoporosis:
   -Calcium 500 TID
   -50,000u ergocalciferol on Saturdays
   -continue Alendronate (will not start until patient is able to sit up
   for 1 hour after pill))
   -calcitonin for pain control
   .
   # Idiopathic pulmonary fibrosis:
   -continue home Prednisone 5 mg daily (can restart now that patient is
   no longer NPO)
   .
   # Hypothyroid: TFTs essentially normal (TSH mildly elevated with normal
   free T4)
   -Continue Levothyroxine 75 mcg PO daily
   -f/u T3
   .
   # Depression/Anxiety:
   -restarted citalopram
   .
   # Skin Ulcers: stage 2 on sacrum, stage 2 on left leg, and unclear
   stage ?IV on lumbar spine
   -wound care consult
   ICU Care
   Nutrition: Advance diet to thin liquids and pureed solids, with pills
   whole with purees.
   Glycemic Control:
   Lines:
   PICC Line - [**2190-10-31**] 01:56 AM
   20 Gauge - [**2190-10-31**] 01:57 AM
   Prophylaxis:
   DVT: hep sc
   Stress ulcer: pantoprazole
   VAP:
   Comments:
   Communication:  Comments: withh family, son [**Name (NI) **] is HCP
   [**Name (NI) 156**] status: Full code confirmed with patient and family aware.
   Disposition: ICU for now, can possibly call out later today if mental
   status okay and pain control improved

2190-11-02 11:12:00 Physician Attending Progress Note
Chief Complaint: unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Episodes of unresponsivenes over the day, improved with narcan, then
   required narcan drip given recurrent episodes
                                    History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2190-11-2**] 01:30 AM
   Ciprofloxacin - [**2190-11-2**] 03:00 AM
   Cefipime - [**2190-11-2**] 06:15 AM
   Vancomycin - [**2190-11-2**] 08:20 AM
   Infusions:
   Other ICU medications:
   Naloxone (Narcan) - [**2190-11-1**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**4-21**] Moderate
   Flowsheet Data as of  [**2190-11-2**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 83 (74 - 117) bpm
   BP: 120/72(83) {103/43(57) - 168/91(102)} mmHg
   RR: 23 (12 - 36) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 42.7 kg (admission): 46.3 kg
   Height: 62 Inch
             Total In:
                                                                  1,292 mL
                                                                  1,283 mL
   PO:
             TF:
   IVF:
                                                                  1,292 mL
                                                                  1,283 mL
   Blood products:
   Total out:
                                                                  1,970 mL
                                                                  1,840 mL
   Urine:
                                                                  1,970 mL
                                                                  1,840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -678 mL
                                                                   -557 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///31/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, cataracts on right, less brisk
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   544 K/uL
   95 mg/dL
   0.5 mg/dL
   31 mEq/L
   3.6 mEq/L
   9 mg/dL
   97 mEq/L
   135 mEq/L
   27.3 %
   13.2 K/uL
        [image002.jpg]
                            [**2190-10-30**]  11:40 PM
                            [**2190-10-31**]  09:26 AM
                            [**2190-11-1**]  04:07 AM
                            [**2190-11-1**]  08:00 AM
                            [**2190-11-1**]  08:38 AM
                            [**2190-11-1**]  12:00 PM
                            [**2190-11-2**]  03:48 AM
   WBC
   25.4
   25.0
   16.8
   13.2
   Hct
   26.1
   25.2
   25.1
   27.3
   Plt
   528
   489
   524
   544
   Cr
   0.7
   0.5
   0.5
   0.5
   TCO2
   35
   Glucose
   88
   97
   162
   102
   81
   95
   Other labs: Differential-Neuts:85.7 %, Lymph:9.8 %, Mono:3.5 %, Eos:1.0
   %, Lactic Acid:2.4 mmol/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP):  Completing course of
   broad spectrum antibiotics.  Stable from a respiratory standpoint.
   Minimal Fi02 requirements.
 OSTEOMYELITIS:  Continues fluconazole.
 ALTERED MENTAL STATUS (NOT DELIRIUM):  Secondarry to sedative
   medications, particularly narcotics.  [**Month (only) 8**] have been exacerbated in
   seeting of starting fluconazole.  Appreciate pain service input,
   following recommendations.  EEG this morning albeit suspicion now much
   lower for seizure activity. Will cancel MRI, patient would have
   difficulty tolerating given spinal osteo and our suspicion for central
   process is low.
 URINARY TRACT INFECTION (UTI): Enterococcus UTI.  Clarify course of
   antibiotics for this.
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2190-10-31**] 01:56 AM
   20 Gauge - [**2190-10-31**] 01:57 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes